US06051712
(ee) In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-hydroxy-piperidine-1-carboxylate [Example 123 d)] with 3-chloromethyl-1,5-dimethoxy-naphthalene [Example 123 r)] there was obtained tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-(4,8-dimethoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a yellow, viscous oil; MS: 658 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-hydroxy-piperidine-1-carboxylate | C(C1=CC=CC=C1)SCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C26H35NO4S
reactant | 3-chloromethyl-1,5-dimethoxy-naphthalene | ClCC=1C=C(C2=CC=CC(=C2C1)OC)OC | C13H13ClO2
product | tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-(4,8-dimethoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)SCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=C(C=CC=C2C(=C1)OC)OC | C39H47NO6S
